US05169867
N-[3-(3-hydroxy-5-hydroxymethyl-2-methyl-4-pyridylmethyleneaminoxy)-2-fluoropropyl]-methylamine hydrochloride
4.0 ml of 1N sodium hydroxide solution and 408 mg (2 mmol) of pyridoxal hydrochloride are added to a solution of 390 mg (2.0 mmol) of N-(3-aminoxy-2-fluoropropyl)-methylamine dihydrochloride in 10 ml of ethanol and the mixture is stirred for 16 hours at room temperature. The reaction mixture is then concentrated to dryness by evaporation and the title compound is crystallised from ethyl acetate.

reactant | sodium hydroxide | 1N, 4.0 ml | [OH-].[Na+]
reactant | pyridoxal hydrochloride | 2 mmol, 408 mg | CC1=NC=C(C(=C1O)C=O)CO.Cl
reactant | N-(3-aminoxy-2-fluoropropyl)-methylamine dihydrochloride | 2.0 mmol, 390 mg | Cl.Cl.O(N)CC(CNC)F
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | N-[3-(3-hydroxy-5-hydroxymethyl-2-methyl-4-pyridylmethyleneaminoxy)-2-fluoropropyl]-methylamine hydrochloride | Cl.OC=1C(=NC=C(C1C=NOCC(CNC)F)CO)C | InChI=1S/C12H18FN3O3.ClH/c1-8-12(18)11(9(6-17)3-15-8)5-16-19-7-10(13)4-14-2;/h3,5,10,14,17-18H,4,6-7H2,1-2H3;1H
